US05686442
Under the argon atmosphere, to an ice-cooled solution of 2-aminobenzenethiol (0.20 ml, 1.87 mmole) in tetrahydrofuran (15 ml) was added 60% sodium hydride (76 mg, 1.90 mmole), and the mixture was stirred at room temperature for 30 minutes. Ethyl 5-chloro-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylate (499 mg, 1.69 mmole) was then added, and the mixture was stirred under ice-cooling for 30 minutes and at room temperature for further 3 hours. The reaction mixture was diluted with water, extracted with ethyl acetate, and washed with water and a saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=3:1-1:4) to give ethyl 5-(2-aminophenylthio)-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylate (594 mg, 91.4%).

reactant | 2-aminobenzenethiol | 1.87 mmole, 0.20 ml | NC1=C(C=CC=C1)S | C6H7NS
reactant | sodium hydride | 1.90 mmole, 76 mg | [H-].[Na+]
reactant | Ethyl 5-chloro-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylate | 1.69 mmole, 499 mg | ClC1=C(N=NN1CC1=CC=C(C=C1)OC)C(=O)OCC | C13H14ClN3O3
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 5-(2-aminophenylthio)-1-(4-methoxybenzyl)-1,2,3-triazole-4-carboxylate | 594 mg, 91.4% | NC1=C(C=CC=C1)SC1=C(N=NN1CC1=CC=C(C=C1)OC)C(=O)OCC | C19H20N4O3S
